### PR TITLE
[Merged by Bors] - chore: bump to nightly-2023-01-12

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
bors merge

File: Mathlib/Data/Int/GCD.lean [hunk 1]
```diff
@@ -96,14 +96,17 @@ theorem gcdB_zero_left {s : ℕ} : gcdB 0 s = 1 := by
 theorem gcdA_zero_right {s : ℕ} (h : s ≠ 0) : gcdA s 0 = 1 := by
   unfold gcdA xgcd
   obtain ⟨s, rfl⟩ := Nat.exists_eq_succ_of_ne_zero h
-  simp [xgcdAux_succ]
-#align nat.gcd_a_zero_right Nat.gcdA_zero_right
+  -- Porting note: `simp [xgcdAux_succ]` crashes Lean here
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Int/GCD.lean:99]: That sounds like something that needs a lean issue. Did you file one, @ChrisHughes24 ?

Comment (ChrisHughes24) [reply Mathlib/Data/Int/GCD.lean:99]: I haven't. I've no idea what's happening and it's difficult to make an MWE
